US05532235
5-Fluoro-2-methylbenzoyl chloride
A mixture of 8.0 g of 5-fluoro-2-methylbenzoic acid and 52 ml of thionyl chloride is heated on a steam bath for 1 hour. The volatiles are removed under vacuum and two times 50 ml of toluene is added and the solvent removed under vacuum to give 8.5 g of product as a gum.

reactant | 5-fluoro-2-methylbenzoic acid | 8.0 g | FC=1C=CC(=C(C(=O)O)C1)C | C8H7FO2
reactant | thionyl chloride | 52 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-Fluoro-2-methylbenzoyl chloride | 8.5 g | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
